US07648992B2
(5S)-5-Methyl-5-({[4-{[2-(methylthio)pyrimidin-5-yl]ethynyl}3,6-dihydropyridin-1(2H)-yl]sulfonyl}methyl)imidazolidine-2,4-dione
The title compound was prepared by the general method described by Nishihara et al., J. Org. Chem., 2000, 65, 1780-1787. To a solution of 2-(methylthio)-5-[(trimethylsilyl)ethynyl]pyrimidine (0.55 g, 2.47 mmol) and 1-{[(4-methyl-2,5-dioxoimidazolidin-4-yl)methyl]sulfonyl}-1,2,3,6-tetrahydropyridin-4-yl trifluoromethanesulfonate (0.94 g, 2.22 mmol) in DMF (5 mL) was added CuI (10 mol %) and PdCl2(PPh3)2 (5 mol %) and the mixture was heated at 85° C. for 6 hours. The mixture was partitioned between EtOAc (20 mL) and water (10 mL), and the aqueous layer was extracted three times with EtOAc. The combined organic layers were washed with brine, water and concentrated to a brown oil (1.6 g). The title compound was obtained as a solid (10 mg) following purification by preparative HPLC (using a Xterra-Prep-MS-C18 (50×19) column with a 12 minutes gradient 5-35% of acetonitrile in water with 0.06% NH3).

reactant | 2-(methylthio)-5-[(trimethylsilyl)ethynyl]pyrimidine | 2.47 mmol, 0.55 g | CSC1=NC=C(C=N1)C#C[Si](C)(C)C | C10H14N2SSi
reactant | 1-{[(4-methyl-2,5-dioxoimidazolidin-4-yl)methyl]sulfonyl}-1,2,3,6-tetrahydropyridin-4-yl trifluoromethanesulfonate | 2.22 mmol, 0.94 g | FC(S(=O)(=O)OC=1CCN(CC1)S(=O)(=O)CC1(NC(NC1=O)=O)C)(F)F | C11H14F3N3O7S2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
catalyst | CuI | [Cu]I
catalyst | PdCl2(PPh3)2 | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | (5S)-5-Methyl-5-({[4-{[2-(methylthio)pyrimidin-5-yl]ethynyl}3,6-dihydropyridin-1(2H)-yl]sulfonyl}methyl)imidazolidine-2,4-dione | C[C@]1(C(NC(N1)=O)=O)CS(=O)(=O)N1CCC(=CC1)C#CC=1C=NC(=NC1)SC | C17H19N5O4S2
